US05239083
4-{2-[3-[1-[2,2'-dimethylbenzhydryl)indol-5-yl] isocrotonoylamino]phenoxy}butyric acid (Compound 72)
0.55 g of amorphous compound 72 was obtained in a similar manner to those described in the Examples 1 and 2 using 0.63 g of ethyl 4-(2-aminophenoxy)butyrate and 0.56 g of 3-[1-[2,2'-dimethylbenzhydryl)indol-5-yl] isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 0.63 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-[2,2'-dimethylbenzhydryl)indol-5-yl] isocrotonic acid | 0.56 g | CC1=C(C(C2=C(C=CC=C2)C)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=CC=C1 | C27H25NO2
product | 4-{2-[3-[1-[2,2'-dimethylbenzhydryl)indol-5-yl] isocrotonoylamino]phenoxy}butyric acid | CC1=C(C(C2=C(C=CC=C2)C)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=CC=C1 | C37H36N2O4
